US07361659B2
To a stirred solution of 2-amino-2-methyl-1-propanol (1.11 g, 12.5 mmol) in dioxane (20 ml) was added at 0° C. (ice water bath) 2-acetamido-thiazole-5-sulfonyl chloride [CAS No. 69812-30-2; commercially available] (1.0 g, 4.15 mmol) and triethylamine (0.64 ml, 4.57 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by column chromatography on silica gel (ethyl acetate) to yield 2-acetamido-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (0.72 g, 59%) as a white solid. MS (ISP) 292.1 [(M−H)−]; mp 206° C.

reactant | 2-amino-2-methyl-1-propanol | 12.5 mmol, 1.11 g | NC(CO)(C)C | C4H11NO
reactant | 2-acetamido-thiazole-5-sulfonyl chloride | C(C)(=O)NC=1SC(=CN1)S(=O)(=O)Cl | C5H5ClN2O3S2
reactant | triethylamine | 4.57 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.72 g, 59% | OCC(C)(C)NS(=O)(=O)C1=CN=C(S1)NC(C)=O | C9H15N3O4S2
